US09403798B2
3-(4-Fluorophenyl)cyclopent-2-enamine
To an ethanol solution (0.50 mL) of 2-[3-(4-fluorophenyl)cyclopent-2-en-1-yl]isoindoline-1,3-dione (10.0 mg, 0.0325 mmol) synthesized in Reference Synthesis Example 222, hydrazine monohydrate (3.16 μL, 0.0651 mmol) was added and the resultant mixture was stirred at room temperature for 1 day. Further, the reaction solution was stirred at 70° C. for 6 hours and then stirred at room temperature for 1 day. After completion of the reaction, the reaction solution was concentrated under reduced pressure and was washed with chloroform to obtain a crude product of the title compound.

reactant | 2-[3-(4-fluorophenyl)cyclopent-2-en-1-yl]isoindoline-1,3-dione | 0.0325 mmol, 10.0 mg | FC1=CC=C(C=C1)C1=CC(CC1)N1C(C2=CC=CC=C2C1=O)=O | C19H14FNO2
reactant | hydrazine monohydrate | 0.0651 mmol, 3.16 μL | O.NN
solvent | ethanol | 0.50 mL | C(C)O | C2H6O
product | 3-(4-Fluorophenyl)cyclopent-2-enamine | FC1=CC=C(C=C1)C1=CC(CC1)N | C11H12FN
